US07253286B2
2-(6,7-Dimethoxyquinolin-4-ylsulfanyl)thiazol-5-ylamine
After suspending 6,7-dimethoxy-4-(5-nitrothiazol-2-ylsulfanyl)quinoline (699 mg, 2.00 mmol), iron (559 mg, 10.0 mmol) and ammonium chloride (1.07 g, 20.0 mmol) in an ethanol (20 ml)—water (5 ml) mixed solvent, the suspension was heated and stirred at 80° C. for 20 minutes. After completion of the reaction, the reaction mixture was filtered with celite and washed in an ethyl acetate-tetrahydrofuran mixed solvent. The organic layer was washed with water and saturated brine and dried over anhydrous magnesium sulfate, the drying agent was filtered off and the filtrate was distilled off under reduced pressure. The obtained crude product was subjected to silica gel column chromatography (eluent—ethyl acetate:methanol=30:1), and the fraction containing the target substance was concentrated to obtain the title compound (190 mg, 0.595 mmol, 30%) as yellowish-brown crystals.

reactant | 6,7-dimethoxy-4-(5-nitrothiazol-2-ylsulfanyl)quinoline | 2.00 mmol, 699 mg | COC=1C=C2C(=CC=NC2=CC1OC)SC=1SC(=CN1)[N+](=O)[O-] | C14H11N3O4S2
reactant | ammonium chloride | 20.0 mmol, 1.07 g | [Cl-].[NH4+]
reactant | ethanol | 20 ml | C(C)O | C2H6O
reactant | water | 5 ml | O | H2O
catalyst | iron | 10.0 mmol, 559 mg | [Fe] | Fe
solvent | methanol | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(6,7-Dimethoxyquinolin-4-ylsulfanyl)thiazol-5-ylamine | 0.595 mmol, 190 mg, 30% | COC=1C=C2C(=CC=NC2=CC1OC)SC=1SC(=CN1)N | C14H13N3O2S2
